US04176184
7,7-Dimethyl-2-(4-chloro-phenyl)-5-[2-(4-methyl-1-piperazinyl)-ethyl]-5H,7H-imidazo[4,5-h]isoquinoline-4,6-dione trihydrochloride by method C
A mixture consisting of 2.1 gm of 7,7-dimethyl-2-(4-chloro-phenyl)-5-(2-chloro-ethyl)-5H,7h-imidazo[4,5-h]isoquinoline-4,6-dione and the 10 ml of N-methyl-piperazine was heated at 130° C. for 2 hours. After distilling off the excess of N-methyl-piperazine in vacuo, the residue was purified on a silicagel column (eluant: chloroform/acetone 19:1). The trihydrochloride was precipitated from acetone by addition of ethereal hydrochloric acid and recrystallized from ethanol.

reactant | 7,7-dimethyl-2-(4-chloro-phenyl)-5-(2-chloro-ethyl)-5H,7h-imidazo[4,5-h]isoquinoline-4,6-dione | 2.1 gm | CC1(N=CC2=C3C(C(C(C2C1=O)CCCl)=O)=NC(=N3)C3=CC=C(C=C3)Cl)C | C20H17Cl2N3O2
reactant | N-methyl-piperazine | 10 ml | CN1CCNCC1 | C5H12N2
product | 7,7-Dimethyl-2-(4-chloro-phenyl)-5-[2-(4-methyl-1-piperazinyl)-ethyl]-5H,7H-imidazo[4,5-h]isoquinoline-4,6-dione trihydrochloride | Cl.Cl.Cl.CC1(N=CC2=C3C(C(C(C2C1=O)CCN1CCN(CC1)C)=O)=NC(=N3)C3=CC=C(C=C3)Cl)C | InChI=1S/C25H28ClN5O2.3ClH/c1-25(2)23(33)19-17(8-9-31-12-10-30(3)11-13-31)22(32)21-20(18(19)14-27-25)28-24(29-21)15-4-6-16(26)7-5-15;;;/h4-7,14,17,19H,8-13H2,1-3H3;3*1H
